US07531535B2
1-(4-methoxyphenyl)-6-[4-(2-oxo-1(2H) -pyridinyl)phenyl]-3-(1H-tetrazol-5-yl)-1,4,5,6,-tetrahydro-7H-pyrazolo[3,4-c]pyridin-7-one
To 1-(4-methoxyphenyl)-7-oxo-6-[4-(2-oxo-1(2H)-pyridinyl)phenyl]-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carbonitrile (0.1 g, 0.23 mmol) in DMF (2 mL) was added NaN3 (19 mg, 0.29 mmol) and NH4Cl (21 mg, 0.38 mmol) and the reaction was heated to 105° C. for 24 h. The reaction was cooled, water (1 mL) was added, and the resulting solid filtered off and dried. The solid was placed in DMF (1 mL) and trityl chloride (60 mg, 0.2 mmol) and pyridine (0.2 mL) were added and stirred for 24 h. The reaction was quenched with water, extracted with EtOAc, and dried (Na2SO4). Purification on silica gel was not successful. The trityl group was removed with TFA (0.5 mL) in CH2Cl2 for 2 h. The solvents were removed and the compound was purified by HPLC and freeze-dried to afford 10 mg (9%) of a white solid; High Resolution Mass Spec (M+H)+ for C25H21N8O3 481.1749.

reactant | 1-(4-methoxyphenyl)-7-oxo-6-[4-(2-oxo-1(2H)-pyridinyl)phenyl]-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carbonitrile | 0.23 mmol, 0.1 g | COC1=CC=C(C=C1)N1N=C(C2=C1C(N(CC2)C2=CC=C(C=C2)N2C(C=CC=C2)=O)=O)C#N | C25H19N5O3
reactant | NaN3 | 0.29 mmol, 19 mg | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 0.38 mmol, 21 mg | [NH4+].[Cl-]
reactant | trityl chloride | 0.2 mmol, 60 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | pyridine | 0.2 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 1 mL | O | H2O
product | 1-(4-methoxyphenyl)-6-[4-(2-oxo-1(2H) -pyridinyl)phenyl]-3-(1H-tetrazol-5-yl)-1,4,5,6,-tetrahydro-7H-pyrazolo[3,4-c]pyridin-7-one | 10 mg, 9% | COC1=CC=C(C=C1)N1N=C(C2=C1C(N(CC2)C2=CC=C(C=C2)N2C(C=CC=C2)=O)=O)C2=NN=NN2 | C25H20N8O3
